US08383631B2
3-amino-1-[{4-(4-trifluoromethylphenyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one (Compound 24)
A target compound (176.3 mg, 0.334 mmol, 85.4%) was yielded as solid in the same manner as Example 1 by reacting 3-amino-5,6-dihydro-6-N-(p-tolyl)-1H-pyrazolo[3,4-c]pyridin-7(4H)-one (95 mg, 0.392 mmol) with potassium carbonate (81.2 mg, 0.588 mmol) and 3-chloro-1-[4-{4-(trifluoromethyl)phenyl}piperazin-1-yl]propan-1-one (138.2 mg, 0.431 mmol).

reactant | 3-amino-5,6-dihydro-6-N-(p-tolyl)-1H-pyrazolo[3,4-c]pyridin-7(4H)-one | 0.392 mmol, 95 mg | NC1=NNC=2C(N(CCC21)C2=CC=C(C=C2)C)=O | C13H14N4O
reactant | potassium carbonate | 0.588 mmol, 81.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-1-[4-{4-(trifluoromethyl)phenyl}piperazin-1-yl]propan-1-one | 0.431 mmol, 138.2 mg | ClCCC(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C14H16ClF3N2O
product | 3-amino-1-[{4-(4-trifluoromethylphenyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one | NC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)C)=O)C(CCN2CCN(CC2)C2=CC=C(C=C2)C(F)(F)F)=O | C27H29F3N6O2
